US09145407B2
3-Cyano-4-[2-(3-methylpyridazin-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
2-(3-Methylpyridazin-4-yl)-4-(trifluoromethyl)phenol (Preparation 44, 100 mg, 0.38 mmol) and 3-cyano-4-fluoro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (Preparation 39, 108 mg, 0.38 mmol) were dissolved in dimethylsulfoxide (2 mL). Potassium carbonate (157 mg, 1.14 mmol) was added and the reaction mixture was heated to 90° C. for 4 hours. The reaction mixture was cooled and the crude material purified by reverse phase column chromatography (ISCO™ Companion, C18 silica, 5% to 60% acetonitrile in water gradient elution) to afford the title compound as an off-white solid (130 mg).

reactant | 2-(3-Methylpyridazin-4-yl)-4-(trifluoromethyl)phenol | 0.38 mmol, 100 mg | CC=1N=NC=CC1C1=C(C=CC(=C1)C(F)(F)F)O | C12H9F3N2O
reactant | 3-cyano-4-fluoro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 0.38 mmol, 108 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC1=NC=NS1 | C9H5FN4O2S2
reactant | Potassium carbonate | 1.14 mmol, 157 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 3-Cyano-4-[2-(3-methylpyridazin-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 130 mg | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)C1=C(N=NC=C1)C)S(=O)(=O)NC1=NC=NS1 | C21H13F3N6O3S2
